US04918074
A mixture of 12.2 g of 2-trifluoromethylbenzaldehyde, 11.2 g of 2-methoxyethyl acetoacetate, 1 ml of piperidine, 2 ml of acetic acid and 150 ml of benzene is refluxed under the condition of azeotropic dehydration for 3.5 hours. The solvent is distilled off under reduced pressure to give red brown oil. The oil is distilled under reduced pressure to give 15.5 g of 2-methoxyethyl α-acetyl-2-trifluoromethylcinnamate, boiling at 145°-151° C./0.5 mmHg.

reactant | 2-trifluoromethylbenzaldehyde | 12.2 g | FC(C1=C(C=O)C=CC=C1)(F)F | C8H5F3O
reactant | 2-methoxyethyl acetoacetate | 11.2 g | C(CC(=O)C)(=O)OCCOC | C7H12O4
reactant | piperidine | 1 ml | N1CCCCC1 | C5H11N
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 2-methoxyethyl α-acetyl-2-trifluoromethylcinnamate | 15.5 g | C(C)(=O)C(C(=O)OCCOC)=CC1=C(C=CC=C1)C(F)(F)F | C15H15F3O4
